US07494984B2
1-(2-Methoxyethyl)-4,5-dihydro-1H-imidazol-2-amine hydrobromide
Reaction of N-(2-methoxyethyl)ethylenediamine (16.0 g, 0.135 mol) (R. C. F. Jones and J. R. Nichols, Tetrahedron Lett., 1990, 31, 1767-1770) with cyanogen bromide (14.34 g, 0.135 mol) as described in the preparation of intermediate 6 gave 26.86 g (88% yield) of the title product as large white prisms (ethanol); mp 143-145° C.

reactant | N-(2-methoxyethyl)ethylenediamine | 0.135 mol, 16.0 g | COCCNCCN | C5H14N2O
reactant | cyanogen bromide | 0.135 mol, 14.34 g | N#CBr | CBrN
product | 1-(2-Methoxyethyl)-4,5-dihydro-1H-imidazol-2-amine hydrobromide | 26.86 g, 88% yield | Br.COCCN1C(=NCC1)N | InChI=1S/C6H13N3O.BrH/c1-10-5-4-9-3-2-8-6(9)7;/h2-5H2,1H3,(H2,7,8);1H
